US08912200B2
N-(3-Ethynyl-4-methoxyphenyl)-1-methylpiperidine-4-carboxamide
3-Ethynyl-4-methoxyaniline (300 mg, 2 mmol) in DCM (20 mL) was treated in a subsequent manner with HOBt (351 mg, 2.6 mmol), isonipecotic acid hydrochloride (467 mg, 2.6 mmol), DIPEA (906 μL, 5.2 mmol) and finally EDCl (498 mg, 2.6 mmol). The reaction was stirred at room temperature for 1.5 h. The organic phase was washed with saturated sodium hydrogen carbonate solution and dried over sodium sulfate. Evaporation of the solvent left a brownish solid which was employed in the following reaction without further purification.

reactant | 3-Ethynyl-4-methoxyaniline | 2 mmol, 300 mg | C(#C)C=1C=C(N)C=CC1OC | C9H9NO
reactant | HOBt | 2.6 mmol, 351 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | isonipecotic acid hydrochloride | 2.6 mmol, 467 mg | Cl.N1CCC(C(=O)O)CC1
reactant | DIPEA | 5.2 mmol, 906 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCl | 2.6 mmol, 498 mg | CCN=C=NCCCN(C)C.Cl
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | N-(3-Ethynyl-4-methoxyphenyl)-1-methylpiperidine-4-carboxamide | C(#C)C=1C=C(C=CC1OC)NC(=O)C1CCN(CC1)C | C16H20N2O2
